US06380387B1
A mixture of N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylaianine (1.0 mmol, 460 mg), 2-[(N,N-diethyl)aminolethyl chloride hydrochloride (8.05 mmol, 1.43 g) and potassium carbonate (8.05 mmol, 1.11 g) in ethyl acetate (5 mL) and water (5 mL) was stirred at room termperature overnight. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×40 mL). The combined extracts were washed with brine (50 mL) and dried over anhydrous sodium sulfate. Filtration of the drying agent and concentration of the filtrate gave the crude product which was purified by silica gel chromatography using a Biotage (40m) column to obtain 426 mg (76% yield) of N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 2-[(N,N-diethyl)amino]ethyl ester as an amorphous white solid. ES-HRMS m/e calcd for C29H34F2N4O5 (M+H) 557.2570, found 557.2575.

reactant | N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylaianine | 1.0 mmol, 460 mg | FC1=C(C(=CC=C1)F)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C23H21F2N3O5
reactant | potassium carbonate | 8.05 mmol, 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 2-[(N,N-diethyl)amino]ethyl ester | 426 mg, 76% yield | C(C)N(CC)CCOC([C@@H](NC(=O)C1=C(C=CC=C1F)F)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C29H34F2N4O5
